US07943609B2
(11S)-11-Isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline 5-oxide (1.20 g, 4.23 mmol) was dissolved in 50 mL of CH2Cl2 and treated with 5 mL of concentrated ammonium hydroxide solution. The mixture was stirred rapidly and then p-toluenesulfonyl chloride (849 mg, 4.45 mmol) was carefully added. Rapid stirring was continued for 2 hours. The reaction mixture was then diluted with 25 mL of CH2Cl2 and 25 mL of H2O. The layers were separated and the organic portion was washed with 2% Na2CO3 solution (3×25 mL), H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 5-25% CMA/CHCl3) gave an off-white powder. Crystallization from ethyl acetate gave (11S)-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (479 mg) as amber crystals, mp 249.0-250.0° C.

reactant | (11S)-11-Isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline 5-oxide | 4.23 mmol, 1.20 g | C(C)(C)[C@H]1COCC=2N1C1=C(C=[N+](C3=CC=CC=C13)[O-])N2 | C16H17N3O2
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 4.45 mmol, 849 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | (11S)-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 479 mg | C(C)(C)[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C16H18N4O
